US07220856B2
Preparation of 7-Fluoro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline
7-Fluoro-4-(piperazin-1-yl)quinoline (0.29 g, 1.25 mmol) and 4-fluorophenyl isocyanate (142 μL, 1.25 mmol) in THF (10 mL) are reacted according to method C yielding the product as colorless crystals after column chromatography with hexane-EtOAc.

reactant | 7-Fluoro-4-(piperazin-1-yl)quinoline | 1.25 mmol, 0.29 g | FC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14FN3
reactant | 4-fluorophenyl isocyanate | 1.25 mmol, 142 μL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-Fluoro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline | FC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F | C20H18F2N4O
